US06545108B1
A solution of 1,4-di-Pyridin-3-yl-butane-1,4-dione (1 g, 4.2 mmol) in toluene (40 mL) is treated with hydrazinecarboxylic acid 2-trimethylsilanyl-ethyl ester (888 mg, 5.0 mmol) and p-toluenesulfonic acid (30 mg). The reaction vessel is fitted with a Dean Stark trap, and the resulting solution is heated to reflux, with azeotropic removal of water until no starting materials are detected by TLC. The solution is cooled to rt, and washed with water. The organic layer is dried over Na2SO4, filtered and concentrated to afford (2,5-di-pyridin-3-yl-pyrrol-1-yl)-carbamic acid 2-trimethylsilanyl-ethyl ester, which is not purified further.

reactant | 1,4-di-Pyridin-3-yl-butane-1,4-dione | 4.2 mmol, 1 g | N1=CC(=CC=C1)C(CCC(=O)C=1C=NC=CC1)=O | C14H12N2O2
reactant | hydrazinecarboxylic acid 2-trimethylsilanyl-ethyl ester | 5.0 mmol, 888 mg | C[Si](CCOC(=O)NN)(C)C | C6H16N2O2Si
reactant | p-toluenesulfonic acid | 30 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | (2,5-di-pyridin-3-yl-pyrrol-1-yl)-carbamic acid 2-trimethylsilanyl-ethyl ester | C[Si](CCOC(NN1C(=CC=C1C=1C=NC=CC1)C=1C=NC=CC1)=O)(C)C | C20H24N4O2Si
